US06531502B1
5-Formyl-4-(2-ethoxycarbonylethyl)-3-methyl-1H-pyrrole-2-carboxylic acid ethyl ester (281 mg), 6-chloro-2-oxindole (168 mg) and piperidine (2 drops) in ethanol (2 mL) were stirred at 90° C. for 2 hours. Potassium hydroxide (537 mg) was added to the mixture and it was then stirred at 95° C. for and additional hour. The reaction mixture was cooled and concentrated. The residue was dissolved into water and acidified with 2 N hydrochloric acid to pH 2. The precipitate was filtered, washed with water, and dried in a vacuum oven overnight to give 270 mg (72%) of 4-(2-carboxy-ethyl)-3-methyl-5-(6-chloro-2-oxo-1,2-dihydroindol-3-ylidenemethyl)-1H-pyrrole-2-carboxylic acid.

reactant | 5-Formyl-4-(2-ethoxycarbonylethyl)-3-methyl-1H-pyrrole-2-carboxylic acid ethyl ester | 281 mg | C(C)OC(=O)C=1NC(=C(C1C)CCC(=O)OCC)C=O | C14H19NO5
reactant | 6-chloro-2-oxindole | 168 mg | ClC1=CC=C2CC(NC2=C1)=O | C8H6ClNO
reactant | Potassium hydroxide | 537 mg | [OH-].[K+]
catalyst | piperidine | 2 drops | N1CCCCC1 | C5H11N
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | 4-(2-carboxy-ethyl)-3-methyl-5-(6-chloro-2-oxo-1,2-dihydroindol-3-ylidenemethyl)-1H-pyrrole-2-carboxylic acid | 270 mg, 72% | C(=O)(O)CCC=1C(=C(NC1C=C1C(NC2=CC(=CC=C12)Cl)=O)C(=O)O)C | C18H15ClN2O5
